US07572820B2
4-Chloro-1-{2-[(4-fluorophenyl)oxy]ethyl}-2-propyl-1H-indole-5-carbonitrile
Synthesized as described in Example 4 from 4-chloro-2-propyl-1H-indole-5-carbonitrile and 1-[(2-bromoethyl)oxy]-4-fluorobenzene: 1H NMR (400 MHz, DMSO-d6) δ 7.89 (s, 1H), 7.80 (d, J=8.7 Hz, 1H), 7.54 (d, J=8.5 Hz, 1H), −7.11-6.97 (m, 2H), 6.83-6.71 (m, 2H), 4.64 (t, 2H), 4.20 (t, 2H), 2.88 (t, 2H), 1.70-1.58 (m, 2H), 0.94 (t, J=7.3 Hz, 3H); MS (ES) m/z 357 (M+1).

reactant | 4-chloro-2-propyl-1H-indole-5-carbonitrile | ClC1=C2C=C(NC2=CC=C1C#N)CCC | C12H11ClN2
reactant | 1-[(2-bromoethyl)oxy]-4-fluorobenzene | BrCCOC1=CC=C(C=C1)F | C8H8BrFO
product | 4-Chloro-1-{2-[(4-fluorophenyl)oxy]ethyl}-2-propyl-1H-indole-5-carbonitrile | ClC1=C2C=C(N(C2=CC=C1C#N)CCOC1=CC=C(C=C1)F)CCC | C20H18ClFN2O
